US08609847B2
Preparation of 6-[(1-cyclobutylpiperidin-4-yl)oxy]-1-(4-fluorophenyl)-3,4-dihydroquinolin-2(1H)-one hydrochloride (hydrochloride salt of Compound No. 60)
To a solution of 6-[(1-cyclobutylpiperidin-4-yl)oxy]-1-(4-fluorophenyl)-3,4-dihydroquinolin-2(1H)-one (Compound No. 60) prepared in Example 6 (0.90 g) in a mixture of ethyl acetate (10 mL) and ethanol (2 mL), 4N hydrochloric acid in ethyl acetate (1.14 mL) was added and stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, followed by addition of isopropanol (7 mL) and ethanol (2 mL) to the residue. The mixture was stirred for 5 minutes while heating in an oil bath (110° C.), and then stirred while cooling to room temperature. The precipitate was collected by filtration and dried to give the titled compound (0.93 g, 95%) as a colorless crystal.

reactant | 6-[(1-cyclobutylpiperidin-4-yl)oxy]-1-(4-fluorophenyl)-3,4-dihydroquinolin-2(1H)-one | C1(CCC1)N1CCC(CC1)OC=1C=C2CCC(N(C2=CC1)C1=CC=C(C=C1)F)=O | C24H27FN2O2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethyl acetate | 1.14 mL | C(C)(=O)OCC | C4H8O2
product | 6-[(1-cyclobutylpiperidin-4-yl)oxy]-1-(4-fluorophenyl)-3,4-dihydroquinolin-2(1H)-one hydrochloride | 0.93 g, 95% | Cl.C1(CCC1)N1CCC(CC1)OC=1C=C2CCC(N(C2=CC1)C1=CC=C(C=C1)F)=O | InChI=1S/C24H27FN2O2.ClH/c25-18-5-7-20(8-6-18)27-23-10-9-22(16-17(23)4-11-24(27)28)29-21-12-14-26(15-13-21)19-2-1-3-19;/h5-10,16,19,21H,1-4,11-15H2;1H
